### PR TITLE
New Proofs Generated by Machines

### PR DESCRIPTION
**Pull request by yangky11**
Hi Zhangir, 

We evaluated our machine learning prover on ProofNet and found some new proofs.

### CODE REVIEW

**Comment by zhangir-azerbayev** [comment]
One thing I am concerned about is that including proofs in this Github repo will result in lots of models being trained on them. Would it be possible to instead add these machine proofs as an extra column to the [huggingface dataset](https://huggingface.co/datasets/hoskinson-center/proofnet) and add a line in this repo's README pointing to huggingface?

I already regret hosting any part of this benchmark on Github, but at least the formal proofs can be saved from data contamination.

File: benchmark/benchmark_to_publish/formal/Herstein.lean [hunk 1]
```diff
@@ -17,11 +17,16 @@ sorry
 
 theorem exercise_2_1_26 {G : Type*} [group G] 
   [fintype G] (a : G) : ∃ (n : ℕ), a ^ n = 1 :=
-sorry
+begin
+  exact ⟨0, pow_zero a⟩,
+end
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Herstein.lean]: The exercise states "positive integer".

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 2]
```diff
@@ -311,15 +348,22 @@ sorry
...
 theorem exercise_7_1_11 {R : Type*} [ring R] [is_domain R] 
   {x : R} (hx : x^2 = 1) : x = 1 ∨ x = -1 :=
-sorry 
+begin
+  cases sq_eq_one_iff.1 hx with h h,
+  exacts [or.inl h, or.inr h],
+end 
 
 theorem exercise_7_1_12 {F : Type*} [field F] {K : subring F}
   (hK : (1 : F) ∈ K) : is_domain K :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean]: `hK` is redundant by definition of `subring` in mathlib (see [subring.one_mem](https://leanprover-community.github.io/mathlib_docs/ring_theory/subring/basic.html#subring.one_mem)).

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 3]
```diff
@@ -262,12 +292,19 @@ theorem exercise_4_5_16 {p q r : ℕ} {G : Type*} [group G]
...
   nonempty (sylow p G) ∨ nonempty(sylow q G) ∨ nonempty(sylow r G) :=
-sorry 
+begin
+  casesI is_empty_or_nonempty (sylow p G),
+  all_goals { simp [h] },
+end 
 
 theorem exercise_4_5_17 {G : Type*} [fintype G] [group G] 
   (hG : card G = 105) : 
   nonempty(sylow 5 G) ∧ nonempty(sylow 7 G) :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean]: Both exercises require the Sylow subgroups to be **normal**, which is omitted in both formalizations.

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 4]
```diff
@@ -136,17 +142,33 @@ sorry
...
   [subgroup.normal H] [subgroup.normal K] :
   subgroup.normal (H ⊓ K) :=
-sorry
+begin
+  apply_instance,
+end
 
 theorem exercise_3_1_22b {G : Type*} [group G] (I : Type*)
   (H : I → subgroup G) (hH : ∀ i : I, subgroup.normal (H i)) : 
   subgroup.normal (⨅ (i : I), H i):=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean:164]: This should probably be added to mathlib ...

File: benchmark/benchmark_to_publish/formal/Axler.lean [hunk 5]
```diff
@@ -11,11 +11,15 @@ sorry
...
-sorry
+begin
+  simp,
+end
 
 theorem exercise_1_4 {F V : Type*} [add_comm_group V] [field F]
   [module F V] (v : V) (a : F): a • v = 0 ↔ a = 0 ∨ v = 0 :=
-sorry
+begin
+  simp [smul_eq_mul],
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Axler.lean:21]: `smul_eq_mul` isn't actually used, I guess.

File: benchmark/benchmark_to_publish/formal/Artin.lean [hunk 6]
```diff
@@ -28,7 +30,9 @@ sorry
 
 theorem exercise_3_2_7 {F : Type*} [field F] {G : Type*} [field G]
   (φ : F →+* G) : injective φ :=
-sorry
+begin
+  convert φ.injective,
+end
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Artin.lean:38]:
```suggestion
φ.injective,
```
or
```
begin
  exact φ.injective,
end

File: benchmark/benchmark_to_publish/formal/Artin.lean [hunk 7]
```diff
@@ -11,7 +11,9 @@ sorry
 
 theorem exercise_2_3_2 {G : Type*} [group G] (a b : G) :
   ∃ g : G, b* a = g * a * b * g⁻¹ :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Artin.lean]:
```suggestion
  ∃ g : G, b * a = g * a * b * g⁻¹ :=
```

File: benchmark/benchmark_to_publish/formal/Herstein.lean [hunk 8]
```diff
@@ -17,11 +17,16 @@ sorry
...
 
 theorem exercise_2_1_27 {G : Type*} [group G] 
   [fintype G] : ∃ (m : ℕ), ∀ (a : G), a ^ m = 1 :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Herstein.lean]: This exercise states "integer m > 0" too, but `fintype.card G` does satisfy the condition.

File: benchmark/benchmark_to_publish/formal/Herstein.lean [hunk 9]
```diff
@@ -161,7 +166,10 @@ sorry
 
 theorem exercise_4_2_9 {p : ℕ} (hp : nat.prime p) (hp1 : odd p) :
   ∃ (a b : ℤ), (a / b : ℚ) = ∑ i in finset.range p, 1 / (i + 1) → ↑p ∣ a :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Herstein.lean]:
```suggestion
  ∀ (a b : ℤ), (a / b : ℚ) = ∑ i in finset.range p, 1 / (i + 1) → ↑p ∣ a :=
```
Personally, I would formalize this as `b * ∑ i in finset.range p, 1 / (i + 1) = a`, so that the formalization agrees with the original intention even in the case `b = 0`.

File: benchmark/benchmark_to_publish/formal/Putnam.lean [hunk 10]
```diff
@@ -11,7 +11,11 @@ sorry
 theorem exercise_2018_a5 (f : ℝ → ℝ) (hf : cont_diff ℝ ⊤ f)
   (hf0 : f 0 = 0) (hf1 : f 1 = 1) (hf2 : ∀ x, f x ≥ 0) :
   ∃ (n : ℕ) (x : ℝ), iterated_deriv n f x = 0 := 
-sorry 
+begin
+  use (1/2),
+  use 0,
+  norm_num [hf0],
+end
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Putnam.lean]: How could there be such an easy Putnam problem? Turns out the statement should say `iterated_deriv n f x < 0`, see https://kskedlaya.org/putnam-archive/2018.pdf

File: benchmark/benchmark_to_publish/formal/Putnam.lean [hunk 11]
```diff
@@ -23,7 +27,9 @@ theorem exercise_2018_b4 (a : ℝ) (x : ℕ → ℝ) (hx0 : x 0 = a)
   (hxn : ∀ n : ℕ, n ≥ 2 → x (n+1) = 2*(x n)*(x (n-1)) - x (n-2))
   (h : ∃ n, x n = 0) : 
   ∃ c, function.periodic x c :=
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Putnam.lean]:
```suggestion
  ∃ c ≠ 0, function.periodic x c :=
```
is clearly what's intended.

**Review by alreadydone — COMMENTED** [review]
It turns out many of the "solutions" are due to erroneous formalization.

Personally, I'd like to see techniques like reflection, self-consistency, and refinement/debate/critique etc. be used together with autoformalization to automatically catch dubious formalizations and generate reasoning traces / CoT (ToT?) data that could be used to fine-tune the model.

It does not seem outlandish to hope LLMs could become sample efficient enough to master a subject just by reading a book on it, doing all exercises, and fine-tuning on all thoughts generated in the process. It seems people are having success building customer service bots etc. by embedding and retrieving from documentation and historical Q&A data and prompting with retrieved entries, without the need of fine-tuning; nowadays there are even long context models like MPT-65k and Claude-100k that can fit a whole book into their working memory. However, for hard tasks like mathematics, I think fine-tuning on synthetic reasoning data would definitely be beneficial, given unsatisfactory reasoning capabilities of current (especially open source) models.

File: benchmark/benchmark_to_publish/formal/Artin.lean (hunk 6 above)
Comment (zhangir-azerbayev) [reply benchmark/benchmark_to_publish/formal/Artin.lean:38]: @yangky11 is your intention to supply reference proofs for the benchmark, or to faithfully record the machine generated proofs?

File: benchmark/benchmark_to_publish/formal/Herstein.lean [hunk 12]
```diff
@@ -17,11 +17,16 @@ sorry
 
 theorem exercise_2_1_26 {G : Type*} [group G] 
   [fintype G] (a : G) : ∃ (n : ℕ), a ^ n = 1 :=
```
Comment (zhangir-azerbayev) [inline benchmark/benchmark_to_publish/formal/Herstein.lean]:
```suggestion
  [fintype G] (a : G) : ∃ (n : ℕ), n > 0 ∧ a ^ n = 1 :=
```

File: benchmark/benchmark_to_publish/formal/Herstein.lean [hunk 13]
```diff
@@ -16,12 +16,15 @@ theorem exercise_2_1_21 (G : Type*) [group G] [fintype G]
 sorry
 
 theorem exercise_2_1_26 {G : Type*} [group G] 
-  [fintype G] (a : G) : ∃ (n : ℕ), a ^ n = 1 :=
+  [fintype G] (a : G) : ∃ (n : ℕ), n > 0 ∧ a ^ n = 1 :=
 sorry
```
Comment (zhangir-azerbayev) [inline benchmark/benchmark_to_publish/formal/Herstein.lean:20]:
```suggestion
sorry
```

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean (hunk 3 above)
Comment (zhangir-azerbayev) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean]:
```suggestion
  (∃ H : sylow 5 G, H.normal) ∧ (∃ H : sylow 7 G, H.normal) :=
```

**Comment by zhangir-azerbayev** [comment]
Thank you for the corrections @alreadydone ! I've added commits that fix 6 wrong formalization and improve two formalizations.

@yangky11 It would be great if you could rerun your model on the statements that were modified. 

I still would like to avoid having solutions to the benchmark on Github. I still would suggest adding a `reference_formal_proof` column to the huggingface dataset.

**Review by zhangir-azerbayev — CHANGES_REQUESTED** [review]
1. Rerun model on modified statements. 
2. Delete solutions from Github and move to huggingface.

File: benchmark/benchmark_to_publish/formal/Axler.lean (hunk 5 above)
Comment (yangky11) [reply benchmark/benchmark_to_publish/formal/Axler.lean:21]: Yep, `smul_eq_mul ` is indeed redundant here, but that's what the prover generated.

**Comment by yangky11** [comment]
Hi Zhangir and Junyan,

Thank you for your feedback on these proofs! That's really helpful, because, TBH, I cannot make sense of most of these theorems/proofs. I agree with Zhangir's worry about data contamination and potentially moving all proofs to another place. Do we know Hugging Face is not included in the training data of LLMs? Also, if all proofs are removed from the repo, we need a convenient way to track which theorems have proofs (maybe using comments next to `sorry`?). In any case, I just wanted to share the proofs, and it's totally up to you what you want to do with them.

It's quite surprising to me many of these proofs uncover issues of the original formalization. Now I'm a bit short of compute due to an incoming deadline, but I'm happy to run the prover on the updated proofs later.

**Comment by yangky11** [comment]
Hi,

I have finished re-running a new version of the model. It proved 1 out of the 7 modified theorems (https://github.com/zhangir-azerbayev/ProofNet/pull/14/commits/f63ea516bb9ea0a5ea4cc018d3e168affc8a756b). In addition, it also proved 10 theorems that weren't in the first batch (https://github.com/zhangir-azerbayev/ProofNet/pull/14/commits/58549812118a5ec97c25ddd0835f2f839d3996ad, https://github.com/zhangir-azerbayev/ProofNet/pull/14/commits/19b1112aef95a7cd803f90279177bafa0a1deaaa). @alreadydone  It would be great if you can take a look and see if any of them has incorrect theorem statement. Thank you!

**Comment by alreadydone** [comment]
Thanks! There are some nice proofs, but I also spotted some problems in formalization, which @zhangir-azerbayev can take a look at https://github.com/zhangir-azerbayev/ProofNet/commit/19b1112aef95a7cd803f90279177bafa0a1deaaa. I also find strange numberings inconsistent with Pugh's book, see https://github.com/zhangir-azerbayev/ProofNet/commit/060d4b170698d79f86dc987d09fed11d53d96fcb#r117194793

**Comment by eric-wieser** [comment]
> I already regret hosting any part of this benchmark on Github

Can you elaborate on why?

**Comment by BartoszPiotrowski** [comment]
> > I already regret hosting any part of this benchmark on Github
> 
> Can you elaborate on why?

Zhangir may elaborate more, but the issue simply is that the benchmark is meant for evaluating LLMs, and because they are typically pretrained on multiple internet resources -- including Github -- it means that these models may memorize the examples from the benchmark. Then good performance achieved on the tasks based on the benchmark cannot be fully attributed to generalization achieved by the model but at least partially to memorization.

**Comment by zhangir-azerbayev** [comment]
Thanks @yangky11 for the proofs and @alreadydone for catching errors. Here's my plan for how to proceed with this PR. 

1. Fix all the remaining incorrect formalizations identified by @alreadydone 
2. Delete machine-generated solutions from this PR. Instead, I will add a new dict-valued column to the huggingface dataset titled "machine-solutions", whose values will have scheme `{system-name: formal-proof}`. This way we can keep track of machine solutions from multiple models without risk training set contamination (I expect people will have the good sense to not download huggingface when training their models).

**Comment by yangky11** [comment]
@alreadydone Thank you for checking the proofs! @zhangir-azerbayev That sounds good to me! It would also be great to keep track of which theorems have proofs in the comments in this repo.

Our system name is `ReProver`. We're wrapping up the project and will release the paper and code soon.

File: benchmark/benchmark_to_publish/formal/Artin.lean [hunk 14]
```diff
@@ -95,7 +102,10 @@ sorry
 
 theorem exercise_11_2_13 (a b : ℤ) :
   (of_int a : gaussian_int) ∣ of_int b → a ∣ b :=
-sorry
+begin
+  contrapose, 
+  simp,
+end
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Artin.lean:108]: `squeeze_simp` gives `simp only [of_int_eq_coe, coe_int_dvd_coe_int, imp_self]` but `exact (coe_int_dvd_coe_int a b).1` is sufficient.

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 15]
```diff
@@ -136,17 +147,33 @@ sorry
 
 theorem exercise_3_1_3a {A : Type*} [comm_group A] (B : subgroup A) :
   ∀ a b : A ⧸ B, a*b = b*a :=
-sorry
+begin
+  rintros ⟨a⟩ ⟨b⟩,
+  exact congr_arg coe (mul_comm a b)
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean:152]: `exact mul_comm` works.

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 16]
```diff
@@ -136,17 +147,33 @@ sorry
...
+  rw infi,
+  rw ←set.image_univ,
+  rw Inf_image,
+  simp [hH],
+  haveI := λ i, (H i).normal,
+  split,
+  intros x hx g, 
+  rw subgroup.mem_infi at hx ⊢,
+  intro i,
+  apply (hH i).conj_mem _ (hx i),
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean:175]: We can produce a shorter proof manually, but it's certainly nice to be able to automate this.
```suggestion
  split,
  simp_rw subgroup.mem_infi,
  exact λ x hx g i, (hH i).conj_mem _ (hx i) _,
```

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 17]
```diff
@@ -311,15 +346,22 @@ sorry
...
+begin
+  exact hu.neg,
+end
 
 theorem exercise_7_1_11 {R : Type*} [ring R] [is_domain R] 
   {x : R} (hx : x^2 = 1) : x = 1 ∨ x = -1 :=
-sorry 
+begin
+  cases sq_eq_one_iff.1 hx with h h,
+  exacts [or.inl h, or.inr h],
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean:357]:
```suggestion
  exact sq_eq_one_iff.1 hx
```

File: benchmark/benchmark_to_publish/formal/Munkres.lean [hunk 18]
```diff
@@ -99,7 +99,9 @@ theorem exercise_16_4 {X Y : Type*} [topological_space X] [topological_space Y]
   (h₁ : π₁ = prod.fst)
   (h₂ : π₂ = prod.snd) :
   is_open_map π₁ ∧ is_open_map π₂ :=
-sorry
+begin
+  simp [is_open_map_iff_nhds_le, h₁, h₂],
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Munkres.lean:103]: An occasion where appropriate lemmas aren't used but rather the [proof](https://github.com/leanprover-community/mathlib/blob/bf9bbbcf0c1c1ead18280b0d010e417b10abb1b6/src/topology/constructions.lean#L589) is adapted; the following proof, albeit longer, would be preferred in mathlib for performance reasons.
```suggestion
  rw [h₁, h₂], exact ⟨is_open_map_fst, is_open_map_snd⟩,
```

File: benchmark/benchmark_to_publish/formal/Munkres.lean [hunk 19]
```diff
@@ -113,19 +115,28 @@ sorry
 theorem exercise_17_4 {X : Type*} [topological_space X]
   (U A : set X) (hU : is_open U) (hA : is_closed A) :
   is_open (U \ A) ∧ is_closed (A \ U) :=
-sorry
+begin
+  rw set.diff_eq,
+  use hU.inter hA.is_open_compl,
+  rw set.diff_eq,
+  exact hA.inter hU.is_closed_compl,
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Munkres.lean:122]: Again, lemma not used but [proof](https://github.com/leanprover-community/mathlib/blob/bf9bbbcf0c1c1ead18280b0d010e417b10abb1b6/src/topology/basic.lean#L195) got adapted: 
```suggestion
  exact ⟨hU.sdiff hA, hA.sdiff hU⟩
```

File: benchmark/benchmark_to_publish/formal/Munkres.lean [hunk 20]
```diff
@@ -113,19 +115,28 @@ sorry
...
+  exact is_closed_le hf hg,
+end
 
 theorem exercise_18_8b {X Y : Type*} [topological_space X] [topological_space Y]
   [linear_order Y] [order_topology Y] {f g : X → Y}
   (hf : continuous f) (hg : continuous g) :
   continuous (λ x, min (f x) (g x)) :=
-sorry
+begin
+  simpa only [min_def] using hf.min hg,
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Munkres.lean:138]: The `simp only` part may have been copied from https://github.com/leanprover-community/mathlib/blob/bf9bbbcf0c1c1ead18280b0d010e417b10abb1b6/src/topology/order/basic.lean#L562
```suggestion
  exact hf.min hg
```

File: benchmark/benchmark_to_publish/formal/Pugh.lean [hunk 21]
```diff
@@ -14,7 +14,11 @@ sorry
 
 theorem exercise_2_26 {M : Type*} [topological_space M]
   (U : set M) : is_open U ↔ ∀ x ∈ U, ¬ cluster_pt x (𝓟 Uᶜ) :=
-sorry
+begin
+  rw is_open_iff_nhds,
+  simp [cluster_pt],
+  simp [filter.inf_principal_eq_bot],
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Pugh.lean:20]: It took me several minutes to come up with the proof
```suggestion
  simp_rw [is_open_iff_eventually, cluster_pt_principal_iff_frequently, not_frequently, not_mem_compl_iff],
```
so it's great that it can be automated. This proof can be condensed to
```suggestion
  simp [is_open_iff_nhds, cluster_pt, filter.inf_principal_eq_bot],
```
to avoid a non-terminal simp.

File: benchmark/benchmark_to_publish/formal/Rudin.lean [hunk 22]
```diff
@@ -117,7 +117,10 @@ theorem exercise_1_17
   (n : ℕ)
   (x y : euclidean_space ℝ (fin n)) -- R^n
   : ‖x + y‖^2 + ‖x - y‖^2 = 2*‖x‖^2 + 2*‖y‖^2 :=
-sorry
+begin
+  rw [norm_add_sq_real, norm_sub_pow_two_real],
+  ring,
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Rudin.lean:122]: This proof could directly use `parallelogram_law_with_norm` rather than "re-proving" it, but that requires specifying an implicit argument with `@`. I wonder whether the model tried to use it initially but failed. It's nice that it figured out it could use lemmas that specialize to real inner product spaces.
```suggestion
  simp_rw [sq, @parallelogram_law_with_norm ℝ, mul_add],
```

File: benchmark/benchmark_to_publish/formal/Dummit-Foote.lean [hunk 23]
```diff
@@ -42,20 +42,31 @@ end
 theorem exercise_1_1_16 {G : Type*} [group G] 
   (x : G) (hx : x ^ 2 = 1) :
   order_of x = 1 ∨ order_of x = 2 :=
-sorry 
+begin
+  cases eq_or_ne x 1,
+  all_goals { simp [h] },
+  apply order_of_eq_prime,
+  exacts [hx, h],
```
Comment (alreadydone) [inline benchmark/benchmark_to_publish/formal/Dummit-Foote.lean:49]: This proof is interesting as it takes a different approach than I would.
```suggestion
  exact (dvd_prime $ by norm_num).1 (order_of_dvd_of_pow_eq_one hx),
```

**Review by alreadydone — COMMENTED** [review]
In response to an email from @yangky11 I'm adding more comments.

**Comment by alreadydone** [comment]
> Personally, I'd like to see techniques like reflection, self-consistency, and refinement/debate/critique etc. be used together with autoformalization to automatically catch dubious formalizations and generate reasoning traces / CoT (ToT?) data that could be used to fine-tune the model.

Some Amazon guys did self-consistency for autoformalization: https://twitter.com/johnjnay/status/1679687620228530177 (Isabelle MiniF2F, not Lean though).
